US07863444B2
A mixture of tert-butyl N-(4-bromo-2-methoxyphenyl)carbamate (80% pure) (6.25 g, 16.56 mmol), diboron pinacol ester (5.05 g, 19.88 mmol), [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.41 g, 0.50 mmol) and potassium acetate (4.88 g, 49.80 mmol) in N,N-dimethylformamide (100 ml) was heated at 80° C. under an atmosphere of nitrogen overnight. The mixture was allowed to cool to ambient temperature and then most of the solvent was removed under reduced pressure. Dichloromethane (100 ml) was added to the residue and the resulting solids were removed by filtration through a pad of celite. The filtrate was concentrated to leave a dark oil which was purified by flash column chromatography on silica using dichloromethane/n-heptane (1:2) with 2.5% triethylamine as mobile phase to give tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate as white solids (65% pure, 4.25 g, 7.92 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 7.93 (s, 1H), 7.83 (d, 1H), 7.25 (d, 1H), 7.16 (s, 1H), 3.83 (s, 3H), 1.46 (s, 9H), 1.30 (s, 12H); RP-HPLC (Hypersil C18, 5 μm, 200 A, 25 cm; 50%-100% acetonitrile-0.1M ammonium acetate over 25 min, 1 ml/min) Rt 18.28 min.

reactant | tert-butyl N-(4-bromo-2-methoxyphenyl)carbamate | 16.56 mmol, 6.25 g | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)OC | C12H16BrNO3
reactant | diboron pinacol ester | 19.88 mmol, 5.05 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.50 mmol, 0.41 g | ClCCl | CH2Cl2
reactant | potassium acetate | 49.80 mmol, 4.88 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C18H28BNO5
